US05153210
Methyl 5-chloromethyl-2-furoate (4.5 g) was added to a mixture of 4-hydroxyphenyl propan-2-one, ethylene ketal (5 g) and potassium carbonate (3.56 g) in acetone (150 ml) containing a catalytic amount of potassium iodide. The reaction mixture was stirred and heated under reflux for 4 hr., cooled and filtered. The filtrate was evaporated to an oil which was purified by column chromatography on silica gel. Elution with chloroform gave a crystalline solid which was stirred at ambient temperature for 4 hr. in a mixture of methanol (50 ml) and 2N hydrochloric acid (50 ml). The methanol was evaporated and the aqueous residue was extracted into dichloromethane. The organic extract was dried (MgSO4) and evaporated to give methyl 5-[4-acetonyl- phenoxymethyl]furan-2-carboxylate as an oil.

reactant | Methyl 5-chloromethyl-2-furoate | 4.5 g | ClCC1=CC=C(O1)C(=O)OC | C7H7ClO3
reactant | 4-hydroxyphenyl propan-2-one | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | potassium carbonate | 3.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 2N, 50 ml | Cl | ClH
product | methyl 5-[4-acetonyl- phenoxymethyl]furan-2-carboxylate | C(C(=O)C)C1=CC=C(OCC2=CC=C(O2)C(=O)OC)C=C1 | C16H16O5
